US08563569B2
To a vial with 5-(2-chloro-5-fluoropyrimidin-4-ylamino)-1H-benzo[d]imidazol-2(3H)-one (28.0 mg, 0.1 mmol) and 6-(4-methylpiperazin-1-yl)pyridin-3-amine (38.4 mg, 0.2 mmol), i-PrOH (2 mL) was added, followed by TFA (10 μL, 0.13 mmol). The vial was tightly closed, and the solution was stirred at 85° C. for 2 days. The solvent was removed in vacuo, and the crude product was purified by RP-HPLC. Purified compound (as a trifluoroacetate salt) was dissolved in MeOH—H2O (1:4, 2 mL) and was passed through a PL-HCO3-MP-SPE column, washing with same solvents (1 mL). The filtrate was collected and the solvent was removed by lyophilization. 6-(5-Methyl-2-(6-(4-methylpiperazin-1-yl)pyridin-3-ylamino)pyrimidin-4-ylamino)benzo[d]oxazol-2(3H)-one was obtained as a purple solid: 26.2 mg (60% yield); 1H NMR (300 MHz, DMSO) δ 11.70 (s, 1H), 9.97 (s, 1H), 9.49 (s, 1H), 8.15 (s, 1H), 7.82 (s, 1H), 7.65 (d, J=11.7, 2H), 7.21 (d, J=8.8, 1H), 7.05 (d, J=8.4, 1H), 6.89 (d, J=8.9, 1H), 4.34-4.31 (m, 4H), 3.09-3.07 (m, 4H), 2.85 (s, 3H), 2.13 (s, 3H).

reactant | 5-(2-chloro-5-fluoropyrimidin-4-ylamino)-1H-benzo[d]imidazol-2(3H)-one | 0.1 mmol, 28.0 mg | ClC1=NC=C(C(=N1)NC1=CC2=C(NC(N2)=O)C=C1)F | C11H7ClFN5O
reactant | 6-(4-methylpiperazin-1-yl)pyridin-3-amine | 0.2 mmol, 38.4 mg | CN1CCN(CC1)C1=CC=C(C=N1)N | C10H16N4
reactant | TFA | 0.13 mmol, 10 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | i-PrOH | 2 mL | CC(C)O | C3H8O
product | 6-(5-Methyl-2-(6-(4-methylpiperazin-1-yl)pyridin-3-ylamino)pyrimidin-4-ylamino)benzo[d]oxazol-2(3H)-one | 60% yield | CC=1C(=NC(=NC1)NC=1C=NC(=CC1)N1CCN(CC1)C)NC1=CC2=C(NC(O2)=O)C=C1 | C22H24N8O2
